US07534894B2
2-Butyl-N-[4′-(1H-tetraazol-5-ylmethoxy)[1,1′-biphenyl]-4-yl]-1-benzofuran-3-carboxamide.
A mixture of 2-butyl-N-(4′-cyanomethoxy[1,1′-biphenyl]-4-yl)-1-benzofuran-3-carboxamide (400 mg, 0.942 mmol), prepared in the previous step, sodium azide (184 mg, 2.83 mmol) and ammonium chloride (151 mg, 2.83 mmol) was stirred under nitrogen at 100+ C. for 5.5 h. The reaction was diluted with ethyl acetate and extracted with 1 N NaOH. The aqueous layer was separated, extracted one additional time with ethyl acetate and acidified by the addition of 1 N HCl. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound (257 mg, 59%) as a white solid, mp 210-212° C.; MS (APCI) m/z 468 ([M+H]+. Elemental Analysis for C27H25N5O3+0.06 H2O: Calc'd: C, 69.20; H, 5.40; N, 14.94; Found: C, 68.83; H, 5.29; N, 14.98

reactant | 2-butyl-N-(4′-cyanomethoxy[1,1′-biphenyl]-4-yl)-1-benzofuran-3-carboxamide | 0.942 mmol, 400 mg | C(CCC)C=1OC2=C(C1C(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)OCC#N)C=CC=C2 | C27H24N2O3
reactant | sodium azide | 2.83 mmol, 184 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.83 mmol, 151 mg | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Butyl-N-[4′-(1H-tetraazol-5-ylmethoxy)[1,1′-biphenyl]-4-yl]-1-benzofuran-3-carboxamide | 257 mg, 59% | C(CCC)C=1OC2=C(C1C(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)OCC1=NN=NN1)C=CC=C2 | C27H25N5O3
